US05639782
4-(1,3-benzodioxol-5-yl)-2,3,4,5-tetrahydro-7-methoxy-5-methyl-8H-2,5a-methano-1-benzoxepin-8-thione (102, FIG. 9)
Lawesson's reagent (119.3 mg, 0.3 mmoles) is added to a stirred solution of futoenone (200 mg, 0.59 mmoles) in toluene (4 ml). The reaction is heated to 60° C. in an oil bath for 2-3 h. TLC of the reaction mixture shows almost complete conversion of starting material. The reaction turns from a green to violet upon heating. The reaction is concentrated in vacuo and purified by MPLC on silica gel using ethyl acetate. A purple foam (154.2 mg, 73.5%) forms upon drying in vacuo. M+(CI)=357. 1H NMR ppm: 0.59 (3H, d), 1.72 (1H, t), 2.07 (1H, m), 2.21 (1H, d), 2.30 (1H, m), 2.43 (1H, m), 2.58 (1H, m), 3.71 (3H, s), 5.08 (1H, t), 5.46 (1H, s), 5.92 (2H, s), 6.65 (4H, m).

reactant | Lawesson's reagent | 0.3 mmoles, 119.3 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | futoenone | 0.59 mmoles, 200 mg | C[C@@H]1[C@H](C[C@H]2C[C@@]13C=C(C(=O)C=C3O2)OC)C=4C=CC5=C(C4)OCO5 | C20H20O5
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(1,3-benzodioxol-5-yl)-2,3,4,5-tetrahydro-7-methoxy-5-methyl-8H-2,5a-methano-1-benzoxepin-8-thione | O1COC2=C1C=CC(=C2)C2CC1OC=3C(C2C)(C=C(C(C3)=S)OC)C1 | C20H20O4S
